US03997585
To a solution of 17.3 g. (0.076 mol.) of 2,2-diphenyl-1,3-propanediol in 200 ml. of dimethoxyethane is added 12.7 g. (0.3 mol.) of 57% sodium hydride followed by an additional 400 ml. of dimethoxyethane. After stirring overnight the suspension is cooled to 4° C. A solution of 31.2 g. (0.27 mol.) of sulfamoyl chloride in 600 ml. of dimethoxyethane is then added dropwise. The suspension is stirred overnight at room temperature. After filtering the mixture the filtrate is concentrated and the residue washed with heptane. Chromatography on SilicAR, CC-7, followed by crystallization affords 2,2-diphenyl-1,3-bis-O-sulfamyl-1,3-propanediol.

reactant | 2,2-diphenyl-1,3-propanediol | 0.076 mol | C1(=CC=CC=C1)C(CO)(CO)C1=CC=CC=C1 | C15H16O2
reactant | sodium hydride | 0.3 mol | [H-].[Na+]
reactant | sulfamoyl chloride | 0.27 mol | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2,2-diphenyl-1,3-bis-O-sulfamyl-1,3-propanediol | C1(=CC=CC=C1)C(COS(N)(=O)=O)(COS(N)(=O)=O)C1=CC=CC=C1 | C15H18N2O6S2
